Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][CH2:2][CH2:3][O:4][c:5]1[c:6]([NH:7][C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[c:14]([O:15][CH2:16][c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[c:23]([Cl:24])[cH:25]2)[cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH2:2][CH2:3][O:4][c:5]2[c:6]([cH:26][cH:27][cH:28][cH:29]2)[N:7]1[C:8](=[O:9])[c:10]1[cH:11][c:12]([Cl:13])[c:14]([O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23]([Cl:24])[cH:25]1,[Cl:101][CH2:1][CH2:2][CH2:3][O:4][c:5]1[c:6]([NH:7][C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[c:14]([O:15][CH2:16][c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[c:23]([Cl:24])[cH:25]2)[cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH2:2][CH2:3][O:4][c:5]2[c:6]([cH:26][cH:27][cH:28][cH:29]2)[N:7]1[C:8](=[O:9])[c:10]1[cH:11][c:12]([Cl:13])[c:14]([O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23]([Cl:24])[cH:25]1,SN2,"[(7, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2]([F:3])([F:4])[F:5].[SH:6][c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]1>>[CH2:1]([C:2]([F:3])([F:4])[F:5])[S:6][c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]1,[SH:6][c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]1.[Cl:101][CH2:1][C:2]([F:3])([F:4])[F:5].[H-:301].[Na+]>>[CH2:1]([C:2]([F:3])([F:4])[F:5])[S:6][c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]1,SN2_alcohol(thiol),"[(301, 6.1), ([6.1, 6], 6), (6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH3:2])=[O:3].[NH2:4][CH2:5][c:6]1[cH:7][cH:8][n:9][cH:10][c:11]1[Br:12]>>[C:1]([CH3:2])(=[O:3])[NH:4][CH2:5][c:6]1[cH:7][cH:8][n:9][cH:10][c:11]1[Br:12],[NH2:4][CH2:5][c:6]1[cH:7][cH:8][n:9][cH:10][c:11]1[Br:12].[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[NH:4][CH2:5][c:6]1[cH:7][cH:8][n:9][cH:10][c:11]1[Br:12],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(4, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[I:5][CH2:4][CH2:3][CH2:2][CH2:1]I.[CH3:6][CH2:7][O:8][C:9](=[O:10])[c:11]1[cH:12][nH:13][c:14]2[cH:15][c:16]([Cl:17])[c:18]([F:19])[cH:20][c:21]2[c:22]1=[O:23]>>[CH2:1]([CH2:2][CH2:3][CH2:4][I:5])[n:13]1[cH:12][c:11]([C:9]([O:8][CH2:7][CH3:6])=[O:10])[c:22](=[O:23])[c:21]2[c:14]1[cH:15][c:16]([Cl:17])[c:18]([F:19])[cH:20]2,[CH3:6][CH2:7][O:8][C:9](=[O:10])[c:11]1[cH:12][nH:13][c:14]2[cH:15][c:16]([Cl:17])[c:18]([F:19])[cH:20][c:21]2[c:22]1=[O:23].[I:101][CH2:1][CH2:2][CH2:3][CH2:4][I:5]>>[CH2:1]([CH2:2][CH2:3][CH2:4][I:5])[n:13]1[cH:12][c:11]([C:9]([O:8][CH2:7][CH3:6])=[O:10])[c:22](=[O:23])[c:21]2[c:14]1[cH:15][c:16]([Cl:17])[c:18]([F:19])[cH:20]2,SN2,"[(13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)O[C:1](=[O:2])[CH2:3][C:4](=[O:5])[c:6]1[cH:7][cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][n:14][cH:15][cH:16]2)[cH:17]1.[CH3:18][O:19][c:20]1[cH:21][cH:22][c:23]([NH:24][C:25](=[O:26])[O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[c:32]([NH2:33])[cH:34]1>>[C:1](=[O:2])([CH2:3][C:4](=[O:5])[c:6]1[cH:7][cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][n:14][cH:15][cH:16]2)[cH:17]1)[NH:33][c:32]1[c:23]([NH:24][C:25](=[O:26])[O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:22][cH:21][c:20]([O:19][CH3:18])[cH:34]1,CC(C)(C)[O:101][C:1](=[O:2])[CH2:3][C:4](=[O:5])[c:6]1[cH:7][cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][n:14][cH:15][cH:16]2)[cH:17]1.[CH3:18][O:19][c:20]1[cH:21][cH:22][c:23]([NH:24][C:25](=[O:26])[O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[c:32]([NH2:33])[cH:34]1>>[C:1](=[O:2])([CH2:3][C:4](=[O:5])[c:6]1[cH:7][cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][n:14][cH:15][cH:16]2)[cH:17]1)[NH:33][c:32]1[c:23]([NH:24][C:25](=[O:26])[O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:22][cH:21][c:20]([O:19][CH3:18])[cH:34]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(33, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[C:3]([F:4])([F:5])[F:6].[OH:7][CH2:8][CH2:9][NH:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[N:10]([CH2:9][CH2:8][OH:7])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,[OH:7][CH2:8][CH2:9][NH:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.CC[O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6]>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[N:10]([CH2:9][CH2:8][OH:7])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(10, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
